US04469634
To a cold solution of 67.2 g (0.34 mol, U.S. Pat. No. 4,265,890) of 6-chloro-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine in 100 ml of sulfuric acid was added, dropwise over 2 hours, 40 ml of concentrated nitric acid. The mixture was stirred at room temperature overnight and quenched in ice. It was made basic with 10% sodium hydroxide solution and extracted with methylene chloride. The organic phase was washed, dried and evaporated to leave a residue, which was chromatographed over a "Waters prep 500" high pressure liquid chromatographic silica gel column, using isopropanol-hexane-diethylamine, to give pure 6-chloro-3-methyl-9-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 6-chloro-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC=CC=2CCN(CCC21)C | C11H14ClN
reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 6-chloro-3-methyl-9-nitro-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC=C(C=2CCN(CCC21)C)[N+](=O)[O-] | C11H13ClN2O2
